US05891871
Methyl 4,5-Methylenedioxy-2-(3-methyl-4-nitrobenzoyl)phenylacetate
The title compound was prepared from methyl 3,4-methylenedioxyphenylacetate (2.1 g, 11 mmol) in ClCH2CH2Cl (70 mL), 3-methyl-4-nitrobenzoic acid (3.7 g, 20 mmol) and P2O5 (6 g) as an oily solid (1.4 g, 3.9 mmol, 35%). 1H NMR (CDCl3) 7.99 (d, J=8.2, 1H), 7.74 (s, 1H), 6.69 (d, J=8.2, 1H), 6.84 (s, 1H), 6.83 (s, 1H), 6.07 (s, 2H), 3.86 (s, 2H), 3.64 (s, 3H), 2.63 (s, 3H).

reactant | methyl 3,4-methylenedioxyphenylacetate | 11 mmol, 2.1 g | C1OC=2C=C(C=CC2O1)CC(=O)OC | C10H10O4
reactant | 3-methyl-4-nitrobenzoic acid | 20 mmol, 3.7 g | CC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C8H7NO4
reactant | P2O5 | 3.9 mmol, 6 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | ClCH2CH2Cl | 70 mL | C(CCl)Cl | C2H4Cl2
product | Methyl 4,5-Methylenedioxy-2-(3-methyl-4-nitrobenzoyl)phenylacetate | C1OC2=CC(=C(C=C2O1)CC(=O)OC)C(C1=CC(=C(C=C1)[N+](=O)[O-])C)=O | C18H15NO7
